US07504411B2
Mixture of methyl(4-chlorophenyl)acetate (5.10 g, 27.6 mmol) and N-bromosuccinimide (5.16 g, 29 mmol) in carbon tetrachloride was treated by Hg lamp. After filtration, solvent was removed under reduced pressure and the residue was dissolved in methanol. Ethylenediamine (2.03 ml, 30.4 mmol) and triethylamine (2.06 ml, 14.8 mmol) and di-tert-butyldicarbonate (3.10 ml, 13.5 mmol) were added to the solution of 3-(4-chlorophenyl)piperazin-2-one (2.60 g, 12.3 mmol) in dichloromethane (100 ml) and stirred. The reaction mixture was washed with 1N aqueous hydrogen chloride, water, brine and then dried. After removal of the solvent under reduced pressure, residue was purified by silica gel column chromatography to give 4-(tert-butoxycarbonyl)-3-(4-chlorophenyl)-piperazin-2-one.

reactant | methyl(4-chlorophenyl)acetate | 27.6 mmol, 5.10 g | COC(CC1=CC=C(C=C1)Cl)=O | C9H9ClO2
reactant | N-bromosuccinimide | 29 mmol, 5.16 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | Ethylenediamine | 30.4 mmol, 2.03 ml | C(CN)N | C2H8N2
reactant | triethylamine | 14.8 mmol, 2.06 ml | C(C)N(CC)CC | C6H15N
reactant | di-tert-butyldicarbonate | 13.5 mmol, 3.10 ml | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | 3-(4-chlorophenyl)piperazin-2-one | 12.3 mmol, 2.60 g | ClC1=CC=C(C=C1)C1C(NCCN1)=O | C10H11ClN2O
solvent | carbon tetrachloride | C(Cl)(Cl)(Cl)Cl | CCl4
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 4-(tert-butoxycarbonyl)-3-(4-chlorophenyl)-piperazin-2-one | C(C)(C)(C)OC(=O)N1C(C(NCC1)=O)C1=CC=C(C=C1)Cl | C15H19ClN2O3
